US09290506B2
(R)-(4-(1-(3-Amino-1-cyclopentyl-3-oxopropyl)-1H-pyrazol-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)methyl pivalate ((R)-11).
A solution of (4-{1-[(1Z)-3-amino-1-cyclopentyl-3-oxoprop-1-en-1-yl]-1H-pyrazol-4-yl}-7H-pyrrolo[2,3-d]pyrimidin-7-yl)methyl pivalate, (10, 500 mg) in methanol (MeOH, 8.0 mL) in a pressure glass tube was treated with the catalyst Ru(COD)(SL-A153-1)(CF3CO2)2 (6.6 mg) under nitrogen before the reaction mixture was pressurized with hydrogen gas to 50 bar pressure. The reaction mixture was stirred at 30° C. under this hydrogen pressure for 21 h. When HPLC analysis showed that the substrate was completely consumed, the reaction mixture was cooled down to room temperature. The enantiomeric excess of the reaction mixture was determined to be 98% ee (99% of the second peak, (R)-11; 1% of the first peak, (S)-11) by chiral HPLC analysis. The reaction mixture was then filtered through a thin silica gel pad and the pad was washed with methanol (5 mL). The filtrate was then concentrated under reduced pressure to dryness. The resultant foamy solid (470 mg) was analyzed by chiral HPLC analysis and result showed a 98.0% of enantiomeric excess favoring the second peak (99.0% of the second peak, (R)-11; 1.0% of the first peak, (S)-11).

reactant | (4-{1-[(1Z)-3-amino-1-cyclopentyl-3-oxoprop-1-en-1-yl]-1H-pyrazol-4-yl}-7H-pyrrolo[2,3-d]pyrimidin-7-yl)methyl pivalate | C(C(C)(C)C)(=O)OCN1C=CC2=C1N=CN=C2C=2C=NN(C2)\C(=C/C(=O)N)\C2CCCC2 | C23H28N6O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 8.0 mL | CO | CH4O
product | (R)-(4-(1-(3-Amino-1-cyclopentyl-3-oxopropyl)-1H-pyrazol-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)methyl pivalate | C(C(C)(C)C)(=O)OCN1C=CC2=C1N=CN=C2C=2C=NN(C2)[C@H](CC(=O)N)C2CCCC2 | C23H30N6O3
